US04317820
2.1 g of 6-oxo-1,2-dihydro-6H-pyrrolo[3,2,1-ij]quinoline-5-carboxylic acid was added to 50 ml of anhydrous dimethylformamide and 1.66 ml of triethylamine was added to the mixture while ice-cooling and stirred for 15 minutes. Then, 1.6 ml of isobutyl chloroformate was added thereto dropwise and stirred for 45 minutes while ice-cooling. On the other hand, 4.5 g of cephaloglycine was suspended in 60 ml of anhydrous dimethylformamide and 2.8 ml of triethylamine and 1 g of anhydrous sulfate were added to the resulting mixture while ice-cooling followed by stirring the mixture for 30 minutes. Insoluble materials were removed by filtration and the filtrate was added at one time to the former reaction mixture and allowed to react for 2 hours while ice-cooling. After completion of the reaction, insoluble materials were removed by filtration and the filtrate was mixed with 10 ml of a 20% butanol solution of sodium 2-ethylhexanoate followed by the addition of 500 ml of diethyl ether to precipitate crystals. The crystals were collected by filtration and dissolved in 300 ml of water. The resulting solution was rendered acidic (pH=3) with dilute hydrochloric acid to precipitate solid materials, which were washed with water and dried under reduced pressure to obtain 4.0 g of 7-[2-(1,2-dihydro- 6-oxo-6H-pyrrolo[3,2,1-ij]quinoline-5-carboxamido)-2-phenylacetamido]-3-(acetyloxymethyl)-8-oxo-5-thia-1-azabicyclo[4,2,0]oct-2-ene-2-carboxylic acid as white amorphous crystals having a melting point of 245° to 248° C. (decomposition).

reactant | 6-oxo-1,2-dihydro-6H-pyrrolo[3,2,1-ij]quinoline-5-carboxylic acid | 2.1 g | O=C1C(=CN2C3=C(C=CC=C13)CC2)C(=O)O | C12H9NO3
reactant | isobutyl chloroformate | 1.6 ml | ClC(=O)OCC(C)C | C5H9ClO2
reactant | cephaloglycine | 4.5 g | CC(=O)OCC1=C(N2[C@@H]([C@@H](C2=O)NC(=O)[C@@H](C=3C=CC=CC3)N)SC1)C(=O)O | C18H19N3O6S
reactant | sulfate | 1 g | S(=O)(=O)([O-])[O-]
solvent | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | triethylamine | 2.8 ml | C(C)N(CC)CC | C6H15N
solvent | triethylamine | 1.66 ml | C(C)N(CC)CC | C6H15N
product | 7-[2-(1,2-dihydro- 6-oxo-6H-pyrrolo[3,2,1-ij]quinoline-5-carboxamido)-2-phenylacetamido]-3-(acetyloxymethyl)-8-oxo-5-thia-1-azabicyclo[4,2,0]oct-2-ene-2-carboxylic acid | 4.0 g | O=C1C(=CN2C3=C(C=CC=C13)CC2)C(=O)NC(C(=O)NC2C1SCC(=C(N1C2=O)C(=O)O)COC(C)=O)C2=CC=CC=C2 | C30H26N4O8S
